US07601844B2
Step 4: (R)-tert-butyl 1-(4-amino-4-(4-chlorophenyl)-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate
A mixture of 4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-amine (488 mg, 2.044 mmol), Boc-D-Val-OH (444 mg, 2.044 mmol), HOBT (626 mg, 4.09 mmol), and triethylamine (1.140 mL, 8.18 mmol) in dichloromethane (5 mL) was treated with EDC (784 mg, 4.09 mmol), and the mixture was stirred overnight at room temperature. The mixture was concentrated in-vacuo, and the residue was taken up in ethyl acetate. The organic phase was washed 3× with WATER, 3× with sat. sodium carbonate, and 1× with sat sodium chloride, dried over sodium sulfate, and concentrated in-vacuo. The residue was purified over silica gel, eluting with ethyl acetate/hexanes (25%-50%-100% EtOAc) to yield the title compound (845 mg, 1.929 mmol, 94% yield) as a colorless glass. MS (ESI+)=438.36, M+.

reactant | 4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-amine | 2.044 mmol, 488 mg | ClC1=CC=C(C=C1)C1(C(CNCC1)(C)C)N | C13H19ClN2
reactant | Boc-D-Val-OH | 2.044 mmol, 444 mg | N([C@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | HOBT | 4.09 mmol, 626 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 8.18 mmol, 1.140 mL | C(C)N(CC)CC | C6H15N
reactant | EDC | 4.09 mmol, 784 mg
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (R)-tert-butyl 1-(4-amino-4-(4-chlorophenyl)-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate | 1.929 mmol, 845 mg, 94% yield | NC1(C(CN(CC1)C([C@@H](C(C)C)NC(OC(C)(C)C)=O)=O)(C)C)C1=CC=C(C=C1)Cl | C23H36ClN3O3
